US09422331B2
To a 0° C. solution of (3S,4S)-5-acetyl-3-amino-1-((2-methoxynaphthalen-1-yl)methyl)-4-methyl-2-oxo-2,3,4,5-tetrahydro-1H-benzo[b][1,4]diazepine-7-carbonitrile hydrochloride (216 mg, 465 μmol) in DMF (1.55 ml) was added Boc-N-methyl-L-alanine (104 mg, 511 μmol), N,N-diisopropylethylamine (322 μl, 1.86 mmol), and HBTU (194 mg, 511 μmol). The reaction was stirred at rt for 30 min, then diluted with H2O and the solids were collected by vacuum filtration, taken up in EtOAc, washed with H2O, sat. aq. NaHCO3, and sat. aq. NaCl, dried over Na2SO4, filtered, and concentrated. The crude material was purified by flash chromatography to provide tert-butyl(S)-1-((3S,4S)-5-acetyl-7-cyano-1-((2-methoxynaphthalen-1-yl)methyl)-4-methyl-2-oxo-2,3,4,5-tetrahydro-1H-benzo[b][1,4]diazepin-3-ylamino)-1-oxopropan-2-yl(methyl)carbamate (255 mg, 89%) as a white solid. MS m/z 636 (MNa)+.

reactant | (3S,4S)-5-acetyl-3-amino-1-((2-methoxynaphthalen-1-yl)methyl)-4-methyl-2-oxo-2,3,4,5-tetrahydro-1H-benzo[b][1,4]diazepine-7-carbonitrile hydrochloride | 465 μmol, 216 mg | Cl.C(C)(=O)N1C2=C(N(C([C@H]([C@@H]1C)N)=O)CC1=C(C=CC3=CC=CC=C13)OC)C=CC(=C2)C#N
reactant | Boc-N-methyl-L-alanine | 511 μmol, 104 mg | C(=O)(OC(C)(C)C)N([C@@H](C)C(=O)O)C | C9H17NO4
reactant | N,N-diisopropylethylamine | 1.86 mmol, 322 μl | C(C)(C)N(C(C)C)CC | C8H19N
reactant | HBTU | 511 μmol, 194 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
solvent | DMF | 1.55 ml | CN(C)C=O | C3H7NO
solvent | H2O | O | H2O
product | tert-butyl(S)-1-((3S,4S)-5-acetyl-7-cyano-1-((2-methoxynaphthalen-1-yl)methyl)-4-methyl-2-oxo-2,3,4,5-tetrahydro-1H-benzo[b][1,4]diazepin-3-ylamino)-1-oxopropan-2-yl(methyl)carbamate | 255 mg, 89% | C(C)(=O)N1C2=C(N(C([C@H]([C@@H]1C)NC([C@H](C)N(C(OC(C)(C)C)=O)C)=O)=O)CC1=C(C=CC3=CC=CC=C13)OC)C=CC(=C2)C#N | C34H39N5O6
